US07858621B2
3-(6-Chloro-pyridin-3-yl)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acrylamide
3-Fluoro-4-methanesulfonylaminobenzylamine hydrochloride (51 mg, 0.201 mmol) was suspended in THF and treated with triethylamine (23 mg, 0.22 mmol) and then the resulting mixture was stirred for 10 mins. 3-(6-chloro-pyridin-3-yl)-acrylic acid (37 mg, 0.201 mmol) was added to the reaction mixture followed by DMTMM (61 mg, 0.22 mmol) after 10 mins. The resulting mixture was stirred overnight at ambient temperature and then diluted with EtOAc. The resulting solution was washed successively with water, sat'd NaHCO3 (×2), brine, and then dried over anhyd. Na2SO4, filtered and concentrated under reduced pressure. The crude residue was column-chromatographed to yield the title compound (74 mg, 96%).

reactant | 3-Fluoro-4-methanesulfonylaminobenzylamine hydrochloride | 0.201 mmol, 51 mg | Cl.FC=1C=C(CN)C=CC1NS(=O)(=O)C
reactant | triethylamine | 0.22 mmol, 23 mg | C(C)N(CC)CC | C6H15N
reactant | 3-(6-chloro-pyridin-3-yl)-acrylic acid | 0.201 mmol, 37 mg | ClC1=CC=C(C=N1)C=CC(=O)O | C8H6ClNO2
reactant | DMTMM | 0.22 mmol, 61 mg | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(6-Chloro-pyridin-3-yl)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acrylamide | 74 mg, 96% | ClC1=CC=C(C=N1)C=CC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F | C16H15ClFN3O3S
